US09284317B2
Step A: Preparation of N-cyclopropyl-4-{6-[5-(methylamino)-5-oxopent-1-yn-1-yl]-8-[(2-methylpropyl)amino]imidazo[1,2-a]pyrazin-3-yl}benzamide
To a solution of 128 mg (0.3 mmol) 4-{6-bromo-8-[(2-methylpropyl)amino]imidazo[1,2-a]pyrazin-3-yl}-N-cyclopropylbenzamide in 1 mL THF were added 133 mg (1.2 mmol) N-methylpent-4-ynamide, 42 mg (0.06 mmol dichloropalladium-triphenylphosphane (1:2) and 363 mg (1.5 mmol) tetrabutylammoniumfluoride and the mixture was heated at 80° C. for 180 min in a microwave tube. The mixture was evaporated, redissolved in 2 mL DMSO, filtered and purified by HPLC to yield 60 mg (44%) of the title compound. UPLC-MS: RT=1.01 min; m/z (ES+) 459.6 [MH+]; required MW=458.6.

reactant | 4-{6-bromo-8-[(2-methylpropyl)amino]imidazo[1,2-a]pyrazin-3-yl}-N-cyclopropylbenzamide | 0.3 mmol, 128 mg | BrC=1N=C(C=2N(C1)C(=CN2)C2=CC=C(C(=O)NC1CC1)C=C2)NCC(C)C | C20H22BrN5O
reactant | N-methylpent-4-ynamide | 1.2 mmol, 133 mg | CNC(CCC#C)=O | C6H9NO
reactant | tetrabutylammoniumfluoride | 1.5 mmol, 363 mg | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 1 mL | C1CCOC1 | C4H8O
catalyst | dichloropalladium triphenylphosphane | 0.06 mmol | Cl[Pd]Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | N-cyclopropyl-4-{6-[5-(methylamino)-5-oxopent-1-yn-1-yl]-8-[(2-methylpropyl)amino]imidazo[1,2-a]pyrazin-3-yl}benzamide | 60 mg, 44% | C1(CC1)NC(C1=CC=C(C=C1)C1=CN=C2N1C=C(N=C2NCC(C)C)C#CCCC(=O)NC)=O | C26H30N6O2
